US07192978B2
1 g (0.0042 mol) of 2-Cyclohexyl-2-fur-2-yl-2-hydroxyacetic acid methyl ester was dissolved in 12 ml of EtOH and 6 ml of a solution of NaOH 2N were added. This mixture was stirred at 600 for 1 hour. After this time, the EtOH was evaporated and the residue was acidified with HCl 10%. The aqueous solution was extracted with AcOEt (2×100 ml). The organic layers were combined, dried and evaporated to obtain a residue (2-cyclohexyl-2-fur-2-yl-2-hydroxyacetic acid) which was used without further purification. The acid obtained was dissolved in dry DMF (12 ml) and 0.817 g (0.005 mol) of 1,1′-carbonildimidazol were added. The mixture was stirred for 1 h at room temperature. After this time the sodium salt of 1-ethylpyrrolidin-3-ol (prepared by addition of HNa (0.1 g, 0.0046 mol) to a solution of 1-ethylpyrrolidin-3-ol (0.5319, 0.0046 mol) in 5 ml of dry DMF) was added. After stirring 15 h at room temperature the reaction mixture was treated with water, and the aqueous phase was extracted with Et2O (2×100 ml). The organic phases were combined, washed with water and dried. After removal of the solvent the product obtained was purified by chromatography on silica gel eluting with chloroform plus isopropanol (5%→15%). The yield was 460 mg (34% related to starting methyl ester) of the title product.

reactant | 2-Cyclohexyl-2-fur-2-yl-2-hydroxyacetic acid methyl ester | 0.0042 mol, 1 g | COC(C(O)(C=1OC=CC1)C1CCCCC1)=O | C13H18O4
reactant | NaOH | 2N | [OH-].[Na+]
solvent | EtOH | 12 ml | CCO | C2H6O
product | 2-cyclohexyl-2-fur-2-yl-2-hydroxyacetic acid | C1(CCCCC1)C(C(=O)O)(O)C=1OC=CC1 | C12H16O4
